US07253158B2
To a solution of acetic acid (63 μl, 1.10 mmol) in 5 ml dimethylformamide were added 1,1′-carbonyl-diimidazole (0.18 g, 1.10 mmol). The mixture was stirred at room temperature for 10 minutes, heated to 40° C. for a few minutes and cooled to room temperature. 4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-azepan-3-yl)-amino]-methyl}-N-hydroxy-benzamidine (0.45 g, 1.00 mmol) was added and the mixture was stirred at 100° C. for 5 hours and then poured into water. Filtration and chromatography on silicagel with ethylacetate/heptane (1/1 to 4/1) yielded 0.43 g (91%) 4-chloro-N-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-benzyl]-N-(2-oxo-azepan-3-yl)-benzenesulfonamide as white solid, MS: m/e (%)=474.9 (MH+, 100).

reactant | acetic acid | 1.10 mmol, 63 μl | C(C)(=O)O | C2H4O2
reactant | 1,1′-carbonyl-diimidazole | 1.10 mmol, 0.18 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-azepan-3-yl)-amino]-methyl}-N-hydroxy-benzamidine | 1.00 mmol, 0.45 g | ClC1=CC=C(C=C1)S(=O)(=O)N(C1C(NCCCC1)=O)CC1=CC=C(C(=N)NO)C=C1 | C20H23ClN4O4S
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-chloro-N-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-benzyl]-N-(2-oxo-azepan-3-yl)-benzenesulfonamide | 0.43 g, 91% | ClC1=CC=C(C=C1)S(=O)(=O)N(C1C(NCCCC1)=O)CC1=CC=C(C=C1)C1=NOC(=N1)C | C22H23ClN4O4S
